US07989461B2
Anhydrous ammonia (50 mL) was condensed in a 500 mL 3 necked flasked containing 8-iodo-2,7-dimethyl-4H-benzo[d][1,3]oxazin-4-one (8.5 g, 28 mmol) cooled to −78° C., and the reaction was stirred for 3 h. The cooling bath was removed and the solvent was allowed to evaporate at RT. 1 N Sodium hydroxide (100 mL) was added to the reaction and stirred at reflux for 1 h. The reaction was cooled down to 0° C. and acidified to pH 3 with 5 N HCl. The resulting precipitate was collected by filtration, washed with water and dried in a vacuum oven at 60° C. overnight. 8-Iodo-2,7-dimethylquinazolin-4(3H)-one (8 g, 94% yield) was obtained as a white solid. MS (M+H)+ 301.

reactant | ammonia | 50 mL | N | H3N
reactant | 8-iodo-2,7-dimethyl-4H-benzo[d][1,3]oxazin-4-one | 28 mmol, 8.5 g | IC1=C(C=CC2=C1N=C(OC2=O)C)C | C10H8INO2
solvent | EtOAc | 500 mL | CCOC(=O)C | C4H8O2
product | 8-Iodo-2,7-dimethylquinazolin-4(3H)-one | 8 g, 94% yield | IC=1C(=CC=C2C(NC(=NC12)C)=O)C | C10H9IN2O
